US07812017B2
4-Pyrazin-2-yl-1H-indole
4-Bromoindole (0.1 g, 0.51 mmol), bis(pinacolato)diboron (0.172 g, 0.77 mmol), potassium acetate (0.075 g, 0.765 mmol) and PdCl2 (0.022 g, 0.031 mmol) were dissolved in DME (3 mL) and heated in the microwave for 900 seconds at 125° C. The reaction was cooled and NaHCO3 (0.129 g, 1.53 mmol), 2-chloropyrazine (0.087 g, 0.77 mmol) tetrakis(triphenylphosphine)palladium (0.0295 g, 0.026 mmol), H2O (1 mL) and DME (1 mL) were added and the mixture was stirred in the microwave for 900 seconds at 120° C. The mixture was diluted with dichloromethane and filtered. The filtrate was washed with water (2×), dried (MgSO4) and evaporated. The crude product was purified by flash chromatography using 2.5% to 5% CH3OH in dichloromethane. Not pure, purified by flash chromatography using hexane/EtOAc 7:3 to 1:1 as the eluent. Yield: 93 mg (47%). White solid. MS (electronspray; [M+H]+) m/z 196.3.

reactant | 4-Bromoindole | 0.51 mmol, 0.1 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | bis(pinacolato)diboron | 0.77 mmol, 0.172 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.765 mmol, 0.075 g | C(C)(=O)[O-].[K+]
reactant | NaHCO3 | 1.53 mmol, 0.129 g | C(=O)(O)[O-].[Na+]
reactant | 2-chloropyrazine | 0.77 mmol, 0.087 g | ClC1=NC=CN=C1 | C4H3ClN2
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | PdCl2 | 0.031 mmol, 0.022 g | Cl[Pd]Cl
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | H2O | 1 mL | O | H2O
product | 4-Pyrazin-2-yl-1H-indole | N1=C(C=NC=C1)C1=C2C=CNC2=CC=C1 | C12H9N3
